US08034811B2
O-Thiazol-4-ylmethyl-hydroxylamine hydrochloride
Prepared by a similar procedure as described for preparation 18. Starting materials: N-hydroxyphthalimide and 4-(chloromethyl)thiazole hydrochloride (TCl). 13C-NMR (DMSO-d6) δ 155.1, 149.2, 121.4, 70.3.

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-(chloromethyl)thiazole hydrochloride | Cl.ClCC=1N=CSC1
product | O-Thiazol-4-ylmethyl-hydroxylamine hydrochloride | Cl.S1C=NC(=C1)CON | InChI=1S/C4H6N2OS.ClH/c5-7-1-4-2-8-3-6-4;/h2-3H,1,5H2;1H
